US08871756B2
tert-Butyl (4S)-4-[(benzylamino)methyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate
A mixture of tert-butyl (4S)-4-formyl-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (1.0 g, 4.36 mmol), phenylmethanamine (491 mg, 4.58 mmol) and toluene (8 mL) was heated under reflux with stirring for 2 hours. The mixture was concentrated in vacuo. The residue was dissolved in 1,2-dichloroethane (10 mL), to which sodium bis(acetyloxy)boranuidyl acetate (2.31 g, 10.91 mmol) was added. The mixture was stirred at room temperature for two days, then diluted with water (25 mL), extracted with dichloromethane (25 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography to afford 849 mg of the product.

reactant | tert-butyl (4S)-4-formyl-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 4.36 mmol, 1.0 g | C(=O)[C@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C11H19NO4
reactant | phenylmethanamine | 4.58 mmol, 491 mg | C1(=CC=CC=C1)CN | C7H9N
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium bis(acetyloxy)boranuidyl acetate | 10.91 mmol, 2.31 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | water | 25 mL | O | H2O
product | tert-Butyl (4S)-4-[(benzylamino)methyl]-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 849 mg | C(C1=CC=CC=C1)NC[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C | C18H28N2O3
